US05576324
Chlorobenzene (28.6 ml) was added to N-(5-ethoxy-2-methylphenyl)cinnamamide (3.9 g, 14.8 mmol). While stirring the mixture in a hot bath (125° C.), aluminum chloride (9.2 g, 69.0 mmol) was added to the mixture, followed by stirring for 30 minutes. After the mixture was cooled, it was poured into ice-water, to which n-hexane was added. Precipitated crystals were collected. The crystals were dissolved in chloroform-methanol (4:1). The solution was dried and condensed. The resultant residue was washed with chloroform, then dissolved in chloroform-methanol (4:1) again. The solution was condensed again. The residue was washed with chloroform and then dissolved in methanol. The resultant solution was treated with activated carbon. 2.4 g of 5-hydroxy-8-methylcarbostyril was obtained as colorless crystals (92.7%).

reactant | Chlorobenzene | 28.6 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | N-(5-ethoxy-2-methylphenyl)cinnamamide | 14.8 mmol, 3.9 g | C(C)OC=1C=CC(=C(C1)NC(C=CC1=CC=CC=C1)=O)C | C18H19NO2
reactant | aluminum chloride | 69.0 mmol, 9.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | n-hexane | CCCCCC | C6H14
product | 5-hydroxy-8-methylcarbostyril | 2.4 g | OC1=C2C=CC(NC2=C(C=C1)C)=O | C10H9NO2
